US07674795B2
In a 1 l three-necked flask, introduce, with stirring, 11.8 g of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine and 137 ml of toluene, then 16.11 g of 4-methyl-benzenesulphonyl chloride and 5.2 g of tetra-n-butylammonium hydrogen sulphate, then run in, dropwise, 275 ml of an aqueous solution containing 30.7 g of sodium hydroxide. After 30 minutes at room temperature, add 200 ml of ethyl acetate and 200 ml of water. The organic phase is decanted, dried over magnesium sulphate, and concentrated under reduced pressure. After purification by flash chromatography on silica gel, eluting with dichloromethane, we obtain 22.6 g of 4-chloro-7-(4-methylbenzenesulphonyl)-7H-pyrrolo[2,3-d]pyrimidine, in the form of a white solid with the following characteristics:

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 11.8 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | toluene | 137 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-methyl-benzenesulphonyl chloride | 16.11 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | sodium hydroxide | 30.7 g | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulphate | 5.2 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-7-(4-methylbenzenesulphonyl)-7H-pyrrolo[2,3-d]pyrimidine | 22.6 g | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C13H10ClN3O2S
